US05283251
To a solution of 4-[1-(3-aminobenzoyl)indol-3-yl]butyric acid (1.0 g) and diisopropylethylamine (1.3 g) in carbon tetrachloride (20 ml) was added bis(4-chlorophenyl)methyl chloride (0.84 g). The mixture was refluxed for 6 hours and the solvent was removed in vacuo. The residue was dissolved in ethyl acetate (20 ml) and diluted hydrochloric acid (30 ml) and washed with water (30 ml×3). The solution was dried over magnesium sulfate and the solvent was removed in vacuo. The residue was purified by a column of silica gel to give a yellow solid of 4-[1-[3-[bis(4-chlorophenyl)methylamino]benzoyl]indol-3-yl]butyric acid (1.19 g).

reactant | 4-[1-(3-aminobenzoyl)indol-3-yl]butyric acid | 1.0 g | NC=1C=C(C(=O)N2C=C(C3=CC=CC=C23)CCCC(=O)O)C=CC1 | C19H18N2O3
reactant | diisopropylethylamine | 1.3 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bis(4-chlorophenyl)methyl chloride | 0.84 g | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)Cl | C13H9Cl3
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-[1-[3-[bis(4-chlorophenyl)methylamino]benzoyl]indol-3-yl]butyric acid | 1.19 g | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)NC=1C=C(C(=O)N2C=C(C3=CC=CC=C23)CCCC(=O)O)C=CC1 | C32H26Cl2N2O3
